US07728018B2
4-Methyl-5-phenyl-4,5-dihydro-1H-pyrazole
5.22 ml (1 equiv.) hydrazine hydrate was added to 100 mL diethylether. The emulsion was cooled with an ice bath. 15.0 mL 2-Methyl-3-phenyl-propenal was added dropwise, and the mixture was stirred overnight at room temperature. H2O was added, the organic layer was separated and the aqueous layer was extracted with diethylether. The combined organic layers were dried over Na2SO4, filtrated and concentrated in vacuo. Vacuum distillation yielded 5.9 g of desired product (mixture of diastereomeric pairs) as a clear fluid (76-82° C., 0.2-0.3 mbar). 1H NMR (400 MHz, CDCl3) of first diastereomeric pair; δ 0.71 (d, J=7 Hz), 3H), 3.20-3.31 (m, 1H), 4.77 (d, J=10 Hz, 1H), 6.73 (br s, 1H), 7.23-7.42 (m, 5H), 8.55-8.60 (m, 2H). 1H NMR (400 MHz, CDCl3) of second diastereomeric pair: δ 1.24 (d, J=7 Hz), 3H), 2.90-3.11 (m, 1H), 4.22 (d, J=11 Hz, 1H), 6.71 (br s, 1H), 7.23-7.42 (m, 5H), 8.55-8.60 (m, 2H).

reactant | hydrazine hydrate | 5.22 ml, 1 equiv. | O.NN
reactant | diethylether | 100 mL | C(C)OCC | C4H10O
reactant | 2-Methyl-3-phenyl-propenal | 15.0 mL | CC(C=O)=CC1=CC=CC=C1 | C10H10O
solvent | H2O | O | H2O
product | 4-Methyl-5-phenyl-4,5-dihydro-1H-pyrazole | 5.9 g | CC1C=NNC1C1=CC=CC=C1 | C10H12N2
